US06458780B1
b) 7-Isobutyryl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
A 1.0 N lithiumbis(trimethylsilyl)amide/THF solution (12 ml) was added to 60 ml of THF. Tri-n-butylstannyl chloride (2.36 ml) and a solution of 1.18 g of 7-isobutyrylimidazo[5,1-b]thiazole in 18 ml of THF were added drop wise there to in an argon atmosphere at −68° C. The mixture was stirred at the same temperature for one hr. Ethyl acetate (450 ml) was added to the reaction solution, and the mixture was washed with 200 ml of brine. The organic layer was dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:2) to give 1.55 g of the title compound.

reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N, 12 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | Tri-n-butylstannyl chloride | 2.36 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | 7-isobutyrylimidazo[5,1-b]thiazole | 1.18 g | C(C(C)C)(=O)C=1N=CN2C1SC=C2 | C9H10N2OS
reactant | Ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 18 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 7-Isobutyryl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 1.55 g | C(C(C)C)(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H9N2OS.3C4H9.Sn/c1-6(2)8(12)7-9-11(5-10-7)3-4-13-9;3*1-3-4-2;/h3,5-6H,1-2H3;3*1,3-4H2,2H3;
